US05610192
Synthesis of 3-Hydroxy-2-naphthoic (1-naphthylmethylene) hydrazide (III93A)
Following the general procedure of Example 1, condensation of 1naphthaldehyde and 3-hydroxy-2-naphthoic hydrazide gave a pale yellow solid (76%): mp 214° C.; 1H NMR d 11.73 (br s, 1 H), 11.05 (br s, 1 H), 8.72 (s, 1 H), 8.52 (d, 1 H, J=8.4 Hz), 8.13 (s, 1 H), 7.60-6.80 (m, 11 H); 13C NMR d 164.00, 154.31, 148.56, 135.99, 133.57, 130.80, 130.40. 130.30, 129.48, 128.81, 128.78, 128.29, 128.12, 127.37, 126.85, 126.31. 125.89, 125.54, 124.39, 123.84, 120.13, 110.75; HRMS Calcd for C22H16N2O2 :340.1212, found 340.1208; Anal. (C22H16N2O2) C, H, N.

reactant | 1naphthaldehyde | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | 3-hydroxy-2-naphthoic hydrazide | OC=1C(=CC2=CC=CC=C2C1)C(=O)NN | C11H10N2O2
product | 3-Hydroxy-2-naphthoic (1-naphthylmethylene) hydrazide | 76% | C1(=CC=CC2=CC=CC=C12)C=NNC(=O)C1=CC2=CC=CC=C2C=C1O | C22H16N2O2
